US08685418B2
To a solution of 1-(cyclohexyl(methyl)amino)propan-2-yl 2,4,6-trimethylbenzoate (0.30 g, 0.946 mmol) in DCE (5 mL), methyl iodide (0.12 mL, 1.892 mmol) was added. The resultant reaction mixture was stirred at rt for 16 hours. The reaction mixture was diluted with DCM and concentrated to dryness. The crude product was subjected to column chromatography to obtain N,N-dimethyl-N-[2-((2,4,6-trimethylbenzoyl)oxy)propyl]cyclohexanaminium iodide. Yield: 0.109 g (25%). 1H NMR (400 MHz, CDCl3) δ 6.86 (s, 2 H), 5.70-5.67 (m, 1 H), 4.52-4.48 (d, J=14 Hz, 1 H), 3.83-3.77 (m, 1 H), 3.70-3.64 (m, 1 H), 3.34 (s, 3 H), 3.28 (s, 3 H), 2.29-2.01 (m, 10 H), 2.01-1.98 (m, 1 H), 1.84 (m, 1 H), 1.64-1.62 (d, J=6 Hz, 4 H), 1.47-1.38 (m, 4 H), 1.13-1.08 (m, 2 H). LCMS: m/z=332.2 [M+], RT=3.01 min (Column: Y, Program: P1). HPLC: 99.53% (200 nm), RT 4.11 min (Mobile phase: A: ACN, B: 0.05% TFA in water, Column: Zorbax® SBC18 (50*4.6 mm) 1.8μ.

reactant | 1-(cyclohexyl(methyl)amino)propan-2-yl 2,4,6-trimethylbenzoate | 0.946 mmol, 0.30 g | CC1=C(C(=O)OC(CN(C)C2CCCCC2)C)C(=CC(=C1)C)C | C20H31NO2
reactant | methyl iodide | 1.892 mmol, 0.12 mL | CI | CH3I
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-N-[2-((2,4,6-trimethylbenzoyl)oxy)propyl]cyclohexanaminium iodide | [I-].C[N+](C1CCCCC1)(CC(C)OC(C1=C(C=C(C=C1C)C)C)=O)C | InChI=1S/C21H34NO2.HI/c1-15-12-16(2)20(17(3)13-15)21(23)24-18(4)14-22(5,6)19-10-8-7-9-11-19;/h12-13,18-19H,7-11,14H2,1-6H3;1H/q+1;/p-1
